US04100132
In an alternate method, one mole N,N'-bis(phthalimido)-oxamide (378 g.) prepared according to the method of Example 1 and excess N-methyl-2-pyrrolidone (198 g.) in two liters toluene were heated at 70° C. After cooling, the complex was filtered, washed and dried at 50° C. N,N'-bis(phthalimido)oxamide-N-methyl-2-pyrrolidone 1:2 complex was obtained in 96% yield.

reactant | N,N'-bis(phthalimido)-oxamide | one mole, 378 g | C1(C=2C(C(N1NC(=O)C(=O)NN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C18H10N4O6
reactant | N-methyl-2-pyrrolidone | 198 g | CN1C(CCC1)=O | C5H9NO
solvent | toluene | two liters | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis(phthalimido)oxamide N-methyl-2-pyrrolidone | 96% yield | C1(C=2C(C(N1NC(=O)C(=O)NN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O.CN1C(CCC1)=O | InChI=1S/C18H10N4O6.C5H9NO/c23-13(19-21-15(25)9-5-1-2-6-10(9)16(21)26)14(24)20-22-17(27)11-7-3-4-8-12(11)18(22)28;1-6-4-2-3-5(6)7/h1-8H,(H,19,23)(H,20,24);2-4H2,1H3
